US08114902B2
(5-1) Synthesis of N-[5-{2-[2′-fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl)-2,2-dimethyl-1,3-dioxan-5-yl}acetamide
A solution of N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (158 mg) of Reference Example 10, 3-methylbenzenethiol (48 mg), diisopropylethylamine (90 mg), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (9.1 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (10.4 mg) in 1,4-dioxane (2 mL) was heated under reflux for 13 hr under a nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound (187 mg) as a colorless oil.

reactant | N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 158 mg | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)F | C22H25BrFNO3
reactant | 3-methylbenzenethiol | 48 mg | CC=1C=C(C=CC1)S | C7H8S
reactant | diisopropylethylamine | 90 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Water | O | H2O
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 9.1 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 10.4 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | N-[5-{2-[2′-fluoro-4′-(3-methylphenylthio)biphenyl-4-yl]ethyl)-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 187 mg | FC1=C(C=CC(=C1)SC1=CC(=CC=C1)C)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O | C29H32FNO3S
